US04219559
To a stirred mixture of 4.5 parts of 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidineethanol, 2 parts of N,N-diethylethanamine and 195 parts of dichloromethane is added dropwise a solution of 1.7 parts of 4-methoxybenzoyl chloride in dichloromethane. Upon completion, stirring is continued overnight at room temperature. Water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the hydrochloride salt in 2-propanone. The salt is filtered off and dried, yielding 2.5 parts (43.5%) of [2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl] 4-methoxybenzoate; dihydrochloride. hemihydrate; mp. 189.2° C.

reactant | 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidineethanol | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCO | C21H25FN4O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl] 4-methoxybenzoate | 43.5% | COC1=CC=C(C(=O)OCCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C1 | C29H31FN4O3
